US04964895
5-Trifluoromethyl-4-chloro-3-(3'-methoxy-4'-nitrophenoxy)-1-methylpyrazole
8.02 g (0.04 mol) of 5-trifluoromethyl-4- chloro-3-hydroxy-1-methylpyrazole and 6.85 g (0.04 mol) of 4-fluoro-2-methoxynitrobenzene were mixed together with 6.22 g (0.045 mol) of potassium carbonate in 50 ml of DMSO for 4 hours at a temperature of 72° C. and overnight at a temperature of 85° C. The product was isolated in accordance with Example 2(c) to give 13.1 g (93% yield) of a yellow solid, m.p. 71°-73.5° C.

reactant | 5-trifluoromethyl-4- chloro-3-hydroxy-1-methylpyrazole | 0.04 mol, 8.02 g | FC(C1=C(C(=NN1C)O)Cl)(F)F | C5H4ClF3N2O
reactant | 4-fluoro-2-methoxynitrobenzene | 0.04 mol, 6.85 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | potassium carbonate | 0.045 mol, 6.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 5-Trifluoromethyl-4-chloro-3-(3'-methoxy-4'-nitrophenoxy)-1-methylpyrazole | 13.1 g, 93% yield | FC(C1=C(C(=NN1C)OC1=CC(=C(C=C1)[N+](=O)[O-])OC)Cl)(F)F | C12H9ClF3N3O4
